US20010027196A1
2-Amino-4-(5-bromo-furan-2-yl)-6-(3-methyl-pyridin-2-ylmethoxy)-pyrimidine-5-carbonitrile
From 2-amino-4-furan-2-yl-6-(3-methyl-pyridin-2-ylmethoxy)-pyrimidine-5-carbonitrile and N-bromosuccinimide in DMF. ES-MS m/e (%): 388 (M{81Br}+H+, 100), 386 (M{79Br}+H+, 90).

reactant | 2-amino-4-furan-2-yl-6-(3-methyl-pyridin-2-ylmethoxy)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)OCC1=NC=CC=C1C | C16H13N5O2
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-Amino-4-(5-bromo-furan-2-yl)-6-(3-methyl-pyridin-2-ylmethoxy)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC(=CC1)Br)C#N)OCC1=NC=CC=C1C | C16H12BrN5O2
